US07217722B2
N-(2,4-Dichlorophenyl)-N′-(4-pyridyl)urea
4-Aminopyridine (100 mg, 1.06 mmol) and 2,4-dichlorophenyl isocyanate (219.7 mg, 1.17 mmol, 1.1 eq) were dissolved in toluene, and the mixture was then stirred at 110° C. for 4 hr.

reactant | 4-Aminopyridine | 1.06 mmol, 100 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2,4-dichlorophenyl isocyanate | 1.17 mmol, 219.7 mg, 1.1 eq | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-Dichlorophenyl)-N′-(4-pyridyl)urea | ClC1=C(C=CC(=C1)Cl)NC(=O)NC1=CC=NC=C1 | C12H9Cl2N3O
